US05814521
N-hydroxysuccinimide (0.58 g, 5.0 mmol) and dicyclohexylcarbodiimide (1.03 g, 5.0 mmol) was added to a solution of thiolactic acid (0.53 g, 5.0 mmol) in CH2Cl2 (8 mL). The mixture was stirred overnight at room temperature and filtered into 2-phenethylamine (0.61 g, 5.0 mmol). The reaction mixture was stirred for 24 hours at room temperature, filtered, and the solvent was removed in vacuo from the filtrate. The residue was chromatographed on silica gel with CH2Cl2 and CH2Cl2 /MeOH (98/2) as eluent to give 0.68 g (65%) of the N-(2'-phenylethyl)-2-mercaptopropanamide product as a solid with mp 78°-79° C. 1H NMR(CDCl3): δ1.51 (d, 3H), 1.93 (d, 1H), 2.84 (t, 2H), 3.30-3.60 (m, 3H), 6.90 (br s, 1H), 7.15-7.38 (m, 5H).

reactant | N-hydroxysuccinimide | 5.0 mmol, 0.58 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 5.0 mmol, 1.03 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | thiolactic acid | 5.0 mmol, 0.53 g | C(C(O)C)(=S)O | C3H6O2S
reactant | 2-phenethylamine | 5.0 mmol, 0.61 g | C1=CC=C(C=C1)CCN | C8H11N
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | N-(2'-phenylethyl)-2-mercaptopropanamide | 0.68 g, 65% | C1(=CC=CC=C1)CCNC(C(C)S)=O | C11H15NOS
